US06982348B2
(4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)acetic acid
To a solution of ethyl (4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)acetate (100 mg, 0.163 mmol) in methanol (20 ml) was added 2N aqueous sodium hydroxide solution (0.16 ml, 0.32 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (100 ml×2). The extract was washed with water and saturated brine, dried (anhydrous magnesium sulfate) and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1-ethyl acetate-methanol=10:1). Recrystallization from ethyl acetate-hexane gave the objective substance (87 mg, 91%).

reactant | ethyl (4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)acetate | 0.163 mmol, 100 mg | C1(=CC=CC2=C1C=CCCC2)C(=O)NC(C(O)C2=CC=C(OCC(=O)OCC)C=C2)CC2=CC(=CC=C2)OC(C(F)F)(F)F | C33H33F4NO6
reactant | sodium hydroxide | 0.32 mmol, 2N, 0.16 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | (4-{(1RS,2SR)-2-[(6,7-dihydro-5H-benzo[a][7]annulen-1-ylcarbonyl)amino]-1-hydroxy-3-[3-(1,1,2,2-tetrafluoroethoxy)phenyl]propyl}phenoxy)acetic acid | C1(=CC=CC2=C1C=CCCC2)C(=O)NC(C(O)C2=CC=C(OCC(=O)O)C=C2)CC2=CC(=CC=C2)OC(C(F)F)(F)F | C31H29F4NO6
